US05274116
2-Amino-N-(2-chloro-1H-pyrrol-1-yl)acetamide Hydrochloride
To a stirred solution of 1,1-dimethylethyl-[2-(2-chloro-1H-pyrrol-1-ylamino)-2-oxoethyl]carbamate (3.1 g) in EtOAc (20 ml) and ether (20 ml) was added ethereal HCl (excess) at room temperature. The reaction mixture was allowed to stir for 19 hours at which time the precipitated product was filtered and washed with EtOAc. Recrystallization from ethanol/ether afforded 0.75 g of the product as a solid, m.p. 220° C. (dec.).

reactant | 1,1-dimethylethyl-[2-(2-chloro-1H-pyrrol-1-ylamino)-2-oxoethyl]carbamate | 3.1 g | CC(C)(C)N(C([O-])=O)CC(=O)NN1C(=CC=C1)Cl
reactant | HCl | Cl | ClH
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-Amino-N-(2-chloro-1H-pyrrol-1-yl)acetamide Hydrochloride | 0.75 g | Cl.NCC(=O)NN1C(=CC=C1)Cl | InChI=1S/C6H8ClN3O.ClH/c7-5-2-1-3-10(5)9-6(11)4-8;/h1-3H,4,8H2,(H,9,11);1H
